US09029381B2
trans-(4-Cycloheptylpiperazin-1-yl)-(2-phenylcyclopropyl)methanone
This example was prepared according to Example 1 by employing trans-2-phenyl-1-cyclopropanecarbonyl chloride and 1-cycloheptylpiperazine, which is commercially available from, for example, Sigma-Aldrich. m/z (ES+) M+1=327.2; HPLC tR=1.90 min. 1H NMR (500 MHz, CDCl3) □7.26 (m, 2H), 7.22-7.13 (m, 1H), 7.09 (d, J=6.7 Hz, 2H), 3.86-3.50 (m, 4H), 2.60-2.42 (m, 6H), 1.95 (dt, J=5.1, 3.8 Hz, 1H) 1.83-1.73 (m, 2H), 1.71-1.60 (m, 3H), 1.58-1.31 (m, 8H), 1.24 (ddd, J=8.2, 6.1, 4.3 Hz, 1H).

reactant | trans-2-phenyl-1-cyclopropanecarbonyl chloride | C1(=CC=CC=C1)[C@H]1[C@@H](C1)C(=O)Cl | C10H9ClO
reactant | 1-cycloheptylpiperazine | C1(CCCCCC1)N1CCNCC1 | C11H22N2
product | trans-(4-Cycloheptylpiperazin-1-yl)-(2-phenylcyclopropyl)methanone | C1(CCCCCC1)N1CCN(CC1)C(=O)[C@H]1[C@@H](C1)C1=CC=CC=C1 | C21H30N2O
